US06780855B2
179 g of tetrabromomethane is added in portions to the solution of 85 g of 5-benzyloxy-pentan-1-ol and 143 g of triphenylphosphine in 720 ml of methylene chloride that is cooled to −15° C., and after the addition has been completed, it is stirred for 3 hours at 0° C. After the reaction mixture was concentrated by evaporation in a vacuum, the purification is carried out by chromatography on silica gel with a hexane-methylene chloride gradient. 71 g of 5-benzyloxy-1-bromo-pentane is obtained as an oil.

reactant | tetrabromomethane | 179 g | BrC(Br)(Br)Br | CBr4
reactant | 5-benzyloxy-pentan-1-ol | 85 g | C(C1=CC=CC=C1)OCCCCCO | C12H18O2
reactant | triphenylphosphine | 143 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 720 ml | C(Cl)Cl | CH2Cl2
product | 5-benzyloxy-1-bromo-pentane | 71 g | C(C1=CC=CC=C1)OCCCCCBr | C12H17BrO
